US08664228B2
Step 3: 2-tert-Butoxycarbonylamino-5-(4-methoxy-phenyl)-pentanoic acid methyl ester
To a cooled (0° C.) mixture comprising 2-tert-butoxycarbonylamino-pent-4-enoic acid methyl ester (4.0 g, 17.46 mmol) in dry THF (60 mL) under an inert atmosphere of argon is added 9-BBN (70 mL of a 0.5 M solution in THF, 35.0 mmol). The reaction is stirred at RT for 2 h. To this mixture is added degassed DMF (50 mL) followed by an aqueous solution of potassium phosphate (12 mL of a 3 M aqueous solution, 36 mmol). 4-Iodoanisole (4.3 g, 18.8 mmol) is added immediately followed by PdCl2(dppf) (0.63 g, 0.86 mmol) and the mixture is stirred at RT overnight. The solvent is removed in vacuo and the crude residue is dissolved in EtOAc and filtered through Celite® (filter material). The filtrate is washed with saturated sodium hydrogen carbonate solution, water (×3), brine, and then dried (MgSO4) and concentrated in vacuo. Purification of the crude product by flash chromatography (SiO2, iso-hexane:EtOAc, 9:1) affords the title compound as a light brown oil.

reactant | 2-tert-butoxycarbonylamino-pent-4-enoic acid methyl ester | 17.46 mmol, 4.0 g | COC(C(CC=C)NC(=O)OC(C)(C)C)=O | C11H19NO4
reactant | 9-BBN | B1C2CCCC1CCC2 | C8H15B
reactant | 4-Iodoanisole | 18.8 mmol, 4.3 g | IC1=CC=C(C=C1)OC | C7H7IO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.86 mmol, 0.63 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-tert-Butoxycarbonylamino-5-(4-methoxy-phenyl)-pentanoic acid methyl ester | COC(C(CCCC1=CC=C(C=C1)OC)NC(=O)OC(C)(C)C)=O | C18H27NO5
